US06833456B2
Dissolved (2S,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester 1.5 g (5.37 mmol) in 10 mL of THF was treated with DIEA 1.31 mL (7.51 mmol) and 0.89 mL of TMS-Cl (6.98 mmol) added drop-wise while stirring. After 2 h of stirring, 50 mL of EtOAc was added and the mix was washed with Sat. NaHCO3 (3×50 mL). The organic layer was then dried over Na2SO4, filter through silica and concentrated to afford 1.84 g (97%) of (2S,4R)-4-Trimethylsilanyloxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester as a clear oil. HPLC: Rt 4.12 min. (100% area). 1H NMR (CDCl3, 400 MHz) δ: 7.37-7.28 (5H, m), 5.22-5.01 (2H, m), 4.51-4.41 (2H, m), 3.76 (2H, s), 3.70-3.66 (1H, m), 3.51-3.39.(1H, m), 2.22-2.16 (1H, m), 2.04 (3H, s), 0.11 (9H, s).

reactant | (2S,4R)-4-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 5.37 mmol, 1.5 g | COC(=O)[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C14H17NO5
reactant | DIEA | 7.51 mmol, 1.31 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TMS-Cl | 6.98 mmol, 0.89 mL | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-4-Trimethylsilanyloxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 1.84 g, 97% | COC(=O)[C@H]1N(C[C@@H](C1)O[Si](C)(C)C)C(=O)OCC1=CC=CC=C1 | C17H25NO5Si
